US08492582B2
Potassium carbonate (0.12 g) and 1-(tert-butoxycarbonyl)piperidine (0.15 g) were added to a 1-methyl-2-pyrrolidone (2.0 mL) solution of methyl 2-(2-(benzyloxy)-5-(2-bromoethoxy)benzamido)-4-phenylbenzoate (0.40 g), followed by stirring at 90° C. for 45 minutes. The reaction mixture was cooled to room temperature, and then water and ethyl acetate were added thereto. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [Kanto Chemical Co., Inc., silica gel 60 (spherical), eluent: 80-0% hexane/ethyl acetate] to obtain 0.36 g of tert-butyl 4-(2-(4-(benzyloxy)-3-(2-(methoxycarbonyl)-5-phenylphenylcarbamoyl)phenoxy)ethyl)piperidine-1-carboxylate as a white solid.

reactant | Potassium carbonate | 0.12 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(tert-butoxycarbonyl)piperidine | 0.15 g | C(C)(C)(C)OC(=O)N1CCCCC1 | C10H19NO2
reactant | 1-methyl-2-pyrrolidone | 2.0 mL | CN1C(CCC1)=O | C5H9NO
reactant | methyl 2-(2-(benzyloxy)-5-(2-bromoethoxy)benzamido)-4-phenylbenzoate | 0.40 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)OCCBr | C30H26BrNO5
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | tert-butyl 4-(2-(4-(benzyloxy)-3-(2-(methoxycarbonyl)-5-phenylphenylcarbamoyl)phenoxy)ethyl)piperidine-1-carboxylate | 0.36 g | C(C1=CC=CC=C1)OC1=C(C=C(OCCC2CCN(CC2)C(=O)OC(C)(C)C)C=C1)C(NC1=C(C=CC(=C1)C1=CC=CC=C1)C(=O)OC)=O | C40H44N2O7
